US05677321
7-Methyl-5-nitroindole
To a solution of 7-bromo-5-nitroindoline (0.65 g, 2.7 mmol) in 10 mL of DMF were added tetramethyltin (1.0 mL, 7.3 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.10 g) in a portion and resulting mixture was stirred in sealed tube for 12 h at 140° C. The reaction mixture was concentrated in vacuo, providing a dark oily residue which was subjected to column chromatography (CHCl3, neat) to yield 0.35 g (2.0 mmol, 74%) of the desired product.

reactant | 7-bromo-5-nitroindoline | 2.7 mmol, 0.65 g | BrC=1C=C(C=C2CCNC12)[N+](=O)[O-] | C8H7BrN2O2
reactant | tetramethyltin | 7.3 mmol, 1.0 mL | C[Sn](C)(C)C
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.10 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-Methyl-5-nitroindole | 2.0 mmol, 0.35 g, 74% | CC=1C=C(C=C2C=CNC12)[N+](=O)[O-] | C9H8N2O2
